US07507729B2
a) [1,2,3]triazol-2-yl-acetic acid hydrazide
As described for example 112a, [1,2,3]triazol-2-yl-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (2 equivalents) and the resulting mixture heated under reflux for 3 h. The mixture was cooled to rt and the precipitated product was filtered off and dried to afford the title compound as a white solid (yield: 68%). MS: m/e=141.1 [M]+.

reactant | [1,2,3]triazol-2-yl-acetic acid ethyl ester | C(C)OC(CN1N=CC=N1)=O | C6H9N3O2
reactant | hydrazine hydrate | 2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | [1,2,3]triazol-2-yl-acetic acid hydrazide | yield: 68% | N=1N(N=CC1)CC(=O)NN | C4H7N5O
